US07638517B2
1-(3-Chloro-1-(S)-phenyl-propyl)-1H-pyrrolo[3,2-b]pyridine was prepared from 1H-pyrrolo[3,2-b]pyridine and 3-chloro-1-(R)-phenyl-propan-1-ol following the procedure described in steps 1 and 2 of Example 11 (24% yield [268 mg, αD=−111.0° (MeOH, c=1)].

reactant | 1H-pyrrolo[3,2-b]pyridine | N1C=CC2=NC=CC=C21 | C7H6N2
reactant | 3-chloro-1-(R)-phenyl-propan-1-ol | ClCC[C@@H](O)C1=CC=CC=C1 | C9H11ClO
solvent | MeOH | CO | CH4O
product | 1-(3-Chloro-1-(S)-phenyl-propyl)-1H-pyrrolo[3,2-b]pyridine | 24% yield | ClCC[C@@H](C1=CC=CC=C1)N1C=CC2=NC=CC=C21 | C16H15ClN2
